US04638068
Preparation of diethyl 3-phenylaminobut-2-ene-dioate
Aniline (0.217 mol) and diethyl oxalacetate (0.217 mol) are mixed in toluene (500 ml) and heated to reflux, i.e., about 100° C., under a water separator for approximately one hour. The toluene is then removed under vacuum to afford the desired product, i.e., diethyl 3-phenylaminobut-2-ene-dioate.

reactant | Aniline | 0.217 mol | NC1=CC=CC=C1 | C6H7N
reactant | diethyl oxalacetate | 0.217 mol | C(CC(=O)C(=O)OCC)(=O)OCC | C8H12O5
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | diethyl 3-phenylaminobut-2-ene-dioate | C1(=CC=CC=C1)NC(=CC(=O)OCC)C(=O)OCC | C14H17NO4
